US06982274B2
5-Bromo-3-(3-fluoro-phenyl)-4-methoxy-1-trityl-1H-indazole
A total of 530 mg of 5-bromo-3-(3-fluoro-phenyl)-4-methoxy-1H-indazole obtained in Production Example II-2-c was dissolved in 8.3 ml of dimethylformamide, and 99 mg of sodium hydride (60% content) was added under ice-cooling and stirring. After stirring for 15 minutes, 483 mg of triphenylmethyl chloride was added. After stirring at room temperature for 1 hour, saturated aqueous ammonium chloride solution was added and the mixture was extracted with ethyl acetate. The resulting organic layer was washed with brine, dried over magnesium sulfate and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:8), to give 998 mg of the title compound as pale yellow crystals.

reactant | 5-bromo-3-(3-fluoro-phenyl)-4-methoxy-1H-indazole | 530 mg | BrC=1C(=C2C(=NNC2=CC1)C1=CC(=CC=C1)F)OC | C14H10BrFN2O
reactant | sodium hydride | 99 mg | [H-].[Na+]
reactant | triphenylmethyl chloride | 483 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 8.3 ml | CN(C=O)C | C3H7NO
product | 5-Bromo-3-(3-fluoro-phenyl)-4-methoxy-1-trityl-1H-indazole | 998 mg | BrC=1C(=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F)OC | C33H24BrFN2O
